US03992389
4-Benzamido-1-[2-(p-methoxyphenyl)ethyl]piperidine
2-(p-Methoxyphenyl)ethanol p-toluenesulphonate ester (1.53 g.), 4-benzamidopiperidine (1.02 g.) and anhydrous potassium carbonate (1.10 g.) were refluxed in isopropanol (50 ml.) for 8 hours and the mixture worked up as in Example 48 to provide the title compound, which was further recrystallised from ethyl acetate as colourless needles (0.78 g.),m.p. 178° C. (Found: C, 74.7; H, 7.9; N, 8.45. C21H26N2O2 requires C, 74.5; H, 7.7; N, 8.3%).

reactant | 4-benzamidopiperidine | 1.02 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | potassium carbonate | 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 4-Benzamido-1-[2-(p-methoxyphenyl)ethyl]piperidine | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCC1=CC=C(C=C1)OC | C21H26N2O2
